US04337256
1-(4-Nitrobenzoyl)amino-2-(2-cyanomethylphenyl)-ethane (12.7 g) was dissolved in 128 ml of xylene and 77 ml of phosphorus oxychloride. While the solution was heated with stirring over an oil bath at 140° C., 38 g of phosphorus pentoxide was added gradually. The reaction was performed for 7 hours. The upper layer of the reaction mixture was removed by decantation. Ice water was added to the residue, and an aqueous solution of sodium hydroxide was added to make it neutral. The crystals that precipitated were collected by filtration, and recrystallized from ethanol to afford 9 g of 1-(4-nitrophenyl)-3,4-dihydroisoquinoline-5-acetonitrile having a melting point of 137.7° to 138.7° C.

reactant | 1-(4-Nitrobenzoyl)amino-2-(2-cyanomethylphenyl)-ethane | 12.7 g | [N+](=O)([O-])C1=CC=C(C(=O)NCCC2=C(C=CC=C2)CC#N)C=C1 | C17H15N3O3
reactant | phosphorus pentoxide | 38 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 128 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | phosphorus oxychloride | 77 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4-nitrophenyl)-3,4-dihydroisoquinoline-5-acetonitrile | 9 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NCCC=2C(=CC=CC12)CC#N | C17H13N3O2
